US05994536
1,7-Bis((6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-1,4,7,10-tetraazacyclododecane LiCl complex
10 g (58.08 mmol) of 1,4,7,10-tetraazacyclododecane, 4.85 g (116.16 mmol) of LiCl and 40.0 g (278.4 mmol) of 4,4-dimethyl-3,5,8-trioxabicyclo[5,1,0]octane are suspended in 40 ml of isopropanol and refluxed for 60 hours. Then, the reaction mixture is mixed with 30 ml of isopropanol and cooled slowly to 0° C. The crystals that are obtained are suctioned off, washed with 30 ml of methyl-tert-butyl ether and dried in a vacuum. 20.7 g (71% of theory) of 1,7-bis(6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-1,4,7,10-tetraazacyclododecane LiCl complex is obtained as white crystals.

reactant | 1,4,7,10-tetraazacyclododecane | 58.08 mmol, 10 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | LiCl | 116.16 mmol, 4.85 g | [Li+].[Cl-]
reactant | 4,4-dimethyl-3,5,8-trioxabicyclo[5,1,0]octane | 278.4 mmol, 40.0 g | CC1(OCC2OC2CO1)C | C7H12O3
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | (6-hydroxy-2,2-dimethyl-1,3-dioxepan-5-yl)-1,4,7,10-tetraazacyclododecane LiCl | OC1C(COC(OC1)(C)C)N1CCNCCNCCNCC1.[Li+].[Cl-] | InChI=1S/C15H32N4O3.ClH.Li/c1-15(2)21-11-13(14(20)12-22-15)19-9-7-17-5-3-16-4-6-18-8-10-19;;/h13-14,16-18,20H,3-12H2,1-2H3;1H;/q;;+1/p-1
